US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-indol-3-yl-2-oxoacetamide
2-Indol-3-yl-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparative HPLC. (0.018 g, 16% yield over 2 steps): 1H NMR (CD3OD) δ 11.93 (s, 1H), 10.53 (s, 1H), 8.95 (s, 1H), 8.86 (s, 1H), 8.55 (s, 1H), 8.52 (s, 1H), 8.41 (dd, 1H), 8.14 (dd, 1H), 8.0 (d, 1H), 7.89 (d, 1H), 7.75 (d, 1H), 7.64-7.54 (m, 2H), 7.34-7.30 (m, 2 H); ES-MS (m/z) 449.

reactant | 2-Indol-3-yl-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | N1C=C(C2=CC=CC=C12)C(C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)=O | C49H39N7O3
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-indol-3-yl-2-oxoacetamide | 16% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C(=O)C1=CNC2=CC=CC=C12)=O | C25H17N7O2
